US08017792B2
LiAlH4 (1.47 g, 0.0388 mol) was added little by little to a tetrahydrofuran (108 mL) solution of 5-bromo-2-chloro-N-methoxy-N-methylbenzamide (10.8 g, 0.0388 mol) so that the internal temperature did not exceed −10° C. The reaction mixture was stirred at −15° C. for one hour and carefully added with a saturated ammonium chloride aqueous solution and deposited insolubles were filtered off with celite. After the filtrate was extracted with ethyl acetate, the organic layer was washed with 1M hydrochloric acid, a saturated sodium bicarbonate aqueous solution, brine, and then dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the solvent was evaporated under reduced pressure to obtain 5-bromo-2-chlorobenzaldehyde (8.1 g, 95%) as a pale yellow crystal. This was used in the next reaction without purification.

reactant | LiAlH4 | 0.0388 mol, 1.47 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-bromo-2-chloro-N-methoxy-N-methylbenzamide | 0.0388 mol, 10.8 g | BrC=1C=CC(=C(C(=O)N(C)OC)C1)Cl | C9H9BrClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 108 mL | O1CCCC1 | C4H8O
product | 5-bromo-2-chlorobenzaldehyde | 8.1 g, 95% | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
